US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methyl-3-furanecarboxamide
As described for Example 9, 2-methyl-3-furanecarbonyl chloride is reacted with 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine to give the product. Recrystallization from dichloromethane-hexane gives crystals, m.p. 202°-204° C.

reactant | 2-methyl-3-furanecarbonyl chloride | CC=1OC=CC1C(=O)Cl | C6H5ClO2
reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methyl-3-furanecarboxamide | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(=O)C3=C(OC=C3)C | C27H22N2O3
